US07994160B2
4-Nitro-2-benzofuran-1,3-dione (2)
A solution of 474.8 g (2.25 mol) of 3-nitrophthalic acid in 450 ml of acetic anhydride was stirred under reflux for 1 h. The solution was slowly cooled to 80° C. Then 1000 ml of methyl-tert-butyl ether (MTBE) were added expeditiously and the solution was cooled to 15° C. The resulting solid was isolated, washed with MTBE and dried in a vacuum oven at 40° C. Yield: 88.8%

reactant | 3-nitrophthalic acid | 2.25 mol, 474.8 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | methyl-tert-butyl ether | 1000 ml | COC(C)(C)C | C5H12O
solvent | acetic anhydride | 450 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Nitro-2-benzofuran-1,3-dione | Yield: 88.8% | [N+](=O)([O-])C1=CC=CC=2C(OC(C21)=O)=O | C8H3NO5
